US08614201B2
Intermediate 2: [2-Benzylsulfanyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-ylmethyl]-carbamic acid tert-butyl ester
To a solution of [4-oxo-4-(4-trifluoromethyl-phenyl)but-2-ynyl]-carbamic acid tert-butyl ester (3.0 g, 9.17 mmol) and 2-benzyl-2-thiopseudo-urea hydrochloride (2.1 g, 10.1 mmol) in freshly distilled CH3CN (100 mL) was added K2CO3 (1.9 g, 13.8 mmol) at rt. After 12 h the resulting mixture was partitioned between H2O (75 mL) and DCM (50 mL). The layers were separated and the aqueous layer was extracted with DCM (2×50 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated. The resulting solid was used without purification. MS (ESI): mass calcd. for C24H24F3N3O2S, 475.2; m/z found, 476.3 [M+H]+. 1H NMR (CDCl3) δ 8.15 (d, J=8.14 Hz, 2H), 7.75 (d, J=8.28 Hz, 2H), 7.51-7.47 (m, 2H), 7.39-7.31 (m, 4H), 5.52 (s, 1H), 4.51 (s, 2H), 4.43 (d, J=5.48 Hz, 2H), 1.51 (s, 9H).

reactant | [4-oxo-4-(4-trifluoromethyl-phenyl)but-2-ynyl]-carbamic acid tert-butyl ester | 9.17 mmol, 3.0 g | C(C)(C)(C)OC(NCC#CC(C1=CC=C(C=C1)C(F)(F)F)=O)=O | C16H16F3NO3
reactant | 2-benzyl-2-thiopseudo-urea hydrochloride | 10.1 mmol, 2.1 g | Cl.C(C1=CC=CC=C1)SC(N)=N
reactant | K2CO3 | 13.8 mmol, 1.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | [2-Benzylsulfanyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)SCC1=CC=CC=C1)=O | C24H24F3N3O2S
